US03954758
Preparation of 5-chlorouracil
In a suitable reaction vessel as in the previous examples a suspension of uracil (1.00g) in an aqueous solution of 18% HCl (10 ml, representing 5 ml of concentrated HCl and 5 ml of water) was introduced. Gaseous fluorine (0.024 moles) was bubbled through the suspension when the reaction temperature of 72°-80°C was reached. The reaction continued for about 140 minutes until the presence of fluorine was detected leaving the reaction vessel. The ratio of fluorine to uracil was 2.73. During the course of the reaction the odor of chlorine gas was observed. A white solid was present throughout the reaction and a final product of 0.98g was collected by filtration. Elemental analysis of the compound detected no fluorine and indicated the compound to be 5-chlorouracil.

reactant | uracil | 1.00g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | fluorine | 0.024 moles | FF | F2
reactant | chlorine | ClCl | Cl2
solvent | HCl | 10 ml | Cl | ClH
product | 5-chlorouracil | ClC=1C(NC(NC1)=O)=O | C4H3ClN2O2
